US04497805
Cyclohexyl 2β,3α-dihydroxy-11α-(3-methylbutylamino)-5α-androstane-17β-carboxylate
Methyl 2β,3α-dihydroxy-11α-(3-methylbutylamino)-5α-androstane-17β-carboxylate (410 mg) in cyclohexanol (2.5 ml) was heated at 100° C. with concentrated H2SO4 (0.2 ml) for 24 h. The cooled mixture was concentrated by evaporation and the residue purified by column chromatography using ethyl acetate/ammonia 50:1 to give an oil (194 mg). This was purified further by preparative t.l.c. in ethyl acetate/ammonia 50:1 to give the title compound (40 mg), [α]D +17°, νmax 1725 cm-1.

reactant | Methyl 2β,3α-dihydroxy-11α-(3-methylbutylamino)-5α-androstane-17β-carboxylate | 410 mg | O[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)C[C@H]([C@@H]3[C@]2(C1)C)NCCC(C)C)C(=O)OC)O | C26H45NO4
reactant | H2SO4 | 0.2 ml | OS(=O)(=O)O | H2O4S
solvent | cyclohexanol | 2.5 ml | C1(CCCCC1)O | C6H12O
product | Cyclohexyl 2β,3α-dihydroxy-11α-(3-methylbutylamino)-5α-androstane-17β-carboxylate | 194 mg | O[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)C[C@H]([C@@H]3[C@]2(C1)C)NCCC(C)C)C(=O)OC1CCCCC1)O | C31H53NO4
